US06265434B1
Step F: 2-(R)-(3-(S)-((4-(3,3-Difluoro-3-phenylpropyl)piperidin-1-yl)methyl)-4-(S)-phenylpyrrolidin-1-yl)-2-(cyclohexyl)acetic acid
2-(R)-(3-(S)-((4-(3,3-Difluoro-3-phenylpropyl)piperidin-1-yl)methyl)-4-(S)-phenylpyrrolidin-1-yl)-2-(cyclohexyl)acetic acid (4-methoxy)benzyl ester (32 mg, 0.049 mmol) dissolved in 95% ethanol (2.5 mL) was hydrogenated at atmospheric pressure using 20% Pd(OH)2/C (5.8 mg). After 3 h, additional Pd(OH)2/C (3.5 mg) was added and the reaction was continued for 1 h. The mixture was filtered, the catalyst was washed with 95% ethanol, and the filtrate was evaporated. The crude product was purified by flash column chromatography on silica gel packed in CH2Cl2. Elution with 95:5:1 v/v/v CH2Cl2/CH3OH/NH4OH followed by 90:10:1 v/v/v CH2Cl2/CH3OH/NH4OH gave 26 mg of the title compound as a colorless brittle glass: RF: 0.5 (10% CH3OH/2% conc. aq. NH4OH/CH2Cl2). 1H NMR (400 MHz, CD3OD) δ 7.48-7.30 (m, 4H), 7.38-7.30 (m, 4H), 7.30-7.23 (m, 1H), 3.62-3.51 (m, 2H), 3.44 (d, J=4, 11), 3.10 (td, J=10, 8, 1H), 2.88 (bd, J=12, 1H), 2.73 (bd, J=10, 2H), 2.46 (dd, J=12, 10, 1H), 2.30 (dd, J=13,4, 1H), 2.11 (tm, J=16, 2H), 1.96 (bt, J=12, 1H), 1.90-1.64 (m, 8H), 1.59 (bt, J=12, 2H), 1.50-1.00 (m, 11H); ESI-MS 539 (M+H).

reactant | 2-(R)-(3-(S)-((4-(3,3-Difluoro-3-phenylpropyl)piperidin-1-yl)methyl)-4-(S)-phenylpyrrolidin-1-yl)-2-(cyclohexyl)acetic acid (4-methoxy)benzyl ester | 0.049 mmol, 32 mg | COC1=CC=C(COC([C@@H](C2CCCCC2)N2C[C@@H]([C@H](C2)C2=CC=CC=C2)CN2CCC(CC2)CCC(C2=CC=CC=C2)(F)F)=O)C=C1 | C41H52F2N2O3
solvent | ethanol | 2.5 mL | C(C)O | C2H6O
catalyst | Pd(OH)2/C | 5.8 mg | [OH-].[OH-].[Pd+2]
catalyst | Pd(OH)2/C | 3.5 mg | [OH-].[OH-].[Pd+2]
product | 2-(R)-(3-(S)-((4-(3,3-Difluoro-3-phenylpropyl)piperidin-1-yl)methyl)-4-(S)-phenylpyrrolidin-1-yl)-2-(cyclohexyl)acetic acid | 26 mg | FC(CCC1CCN(CC1)C[C@H]1CN(C[C@@H]1C1=CC=CC=C1)[C@@H](C(=O)O)C1CCCCC1)(C1=CC=CC=C1)F | C33H44F2N2O2
